Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
large volume hemoperitoneum and dropping hct 
 
Major Surgical or Invasive Procedure:
blood transfusion

 
History of Present Illness:
___ G2P0 medlfighted from ___ due to lack of 
OR availability for Gyn and Gen Surg evaluation after finding 
large volume hemoperitoneum on pelvic US in the setting of 
dropping hct. The patient reports acute onset crampy lower 
abdominal pain after intercourse last night. Throughout the 
course of the day pain worsened with associated lightheadedness, 
dizziness, diaphoresis, nausea, vomiting, and one episode of 
diarrhea. The pain then spread to her chest and shoulders and 
she
presented to ___.

Workup at ___ included:
 VS 106-164/44-91  HR 82>70>123 94%RA
 HCT 33.0 (1700)-> 24.5 (___)
 Serum HCG negative
 Given 3L IVF, 1G IV ceftriaxone and 500mg IV Flagyl 
 Pelvic US: normal uterus, grossly normal b/l ovaries with
multiple tiny follicles with normal Doppler flow. Large amt of
echogenic material within cul-de-sac compatible with blood clot.
Large amount of free fluid in pelvis and upper abdomen with
internal echoes. No source of bleeding identified.

Given the acute drop in her hct (though partially dilutional), 
worsening tachycardia, and large volume hemoperitoneum, the plan 
was for diagnostic laparoscopy and evacuation of hemoperitoneum 
by GYN; however the OR was unavailable for the next 3 hours and 
the patient was transferred to ___ for further management.  
 
In the ED here, FAST scan was positive for free fluid in the 
abdomen and pelvis. The patient reports continued abdominal, 
chest, and shoulder pain slightly improved after fentanyl. The 
pain is worse with movement and the flight over was very 
difficult to handle.

 
Past Medical History:
PGYN:
- LMP ~3wks ago but not a usual period. Had a few days of BRB
after consensual intercourse and was evaluated by PCP with 
normal
exam, neg genital cultures and Pap. Last normal period was a
month prior. 
- Regular menses, denies intermenstrual spotting
- Denies abnormal discharge
- Sexually active with one male partner
- Not using contraception and is trying to get pregnant
- Denies hx of ovarian cysts, endometriosis, fibroid uterus
- Denies dysmenorrhea or dyspareunia
- Denies hx of STI
- Denies hx of abnl Pap

POB: TAB x2, ___ ago
PMH: anxiety/depression
PSH: D&C x2 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 09:41PM URINE  HOURS-RANDOM
___ 09:41PM URINE  HOURS-RANDOM
___ 09:41PM URINE  UCG-NEGATIVE
___ 09:41PM URINE  GR HOLD-HOLD
___ 09:41PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:41PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:41PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:41PM URINE  MUCOUS-RARE
___ 08:31PM   LACTATE-1.2
___ 08:31PM   HGB-8.5* calcHCT-26
___ 08:21PM   GLUCOSE-127* UREA N-17 CREAT-0.6 SODIUM-134 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-20* ANION GAP-13
___ 08:21PM   estGFR-Using this
___ 08:21PM   CALCIUM-7.3* PHOSPHATE-2.4* MAGNESIUM-1.6
___ 08:21PM   WBC-14.3* RBC-2.60* HGB-7.9* HCT-23.9* MCV-92 
MCH-30.4 MCHC-33.1 RDW-12.6 RDWSD-42.0
___ 08:21PM   NEUTS-89.0* LYMPHS-6.7* MONOS-3.8* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-12.69* AbsLymp-0.95* AbsMono-0.54 
AbsEos-0.00* AbsBaso-0.01
___ 08:21PM   PLT COUNT-162
___ 08:21PM   ___ PTT-29.2 ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after being transferred to ___ from ___ 
for hemoperitoneum but overall stable condition. 

Given her overall clinically stable condition and stable HCT, a 
procedure was not needed for the likely ruptured ovarian cyst. 
She was followed closely with serial abdominal exams and serial 
HCTs. Her pain was controlled with IV pain medications. 

Her HCT nadired at 20.8 and she received 2 units of pRBCs. By 
hospital day 1, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was then discharged home in stable 
condition with outpatient follow-up scheduled on hospital day 2.
 
Medications on Admission:
Prozac 20mg daily (40mg prescribed)
 
Discharge Medications:
1. FLUoxetine 20 mg PO DAILY 
2. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hemoperitoneum from ruptured hemorrhagic ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your transfer 
to ___ for management of your ruptured ovarian cyst. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office with any 
questions or concerns at ___. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* You may eat a regular diet.
* You may walk up and down stairs.

 
Followup Instructions:
___